US08183231B2
Step 1: [(R)-3-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester:
To a solution of N-Boc-L-valine (1.798 g, 7.15 mmol) and HOBT, (1.257 g, 9.30 mmol) in DMF (10 mL) under N2 was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.440 g, 7.51 mmol). The resulting clear solution was stirred at room temperature for 5 min and then a solution of ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride (2.589 g, 7.15 mmol) in DMF (15 mL) was added via cannula. Triethylamine (2.0 mL, 14.3 mmol) was added dropwise to the reaction mixture and the resulting solution was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate (75 mL) and was washed with saturated NaHCO3, half saturated brine and then brine. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by SiO2 chromatography using 0-5% MeOH/CH2Cl2 as the eluent to yield the title diastereomeric compound (2.254 g, 4.296 mmol). 1H NMR (CD3OD, 300 MHz): δ 7.43-7.30 (m, 5H), 5.03 (m, 2H), 4.07 (m, 1H), 3.83-3.80 (m, 1H), 3.34-3.23 (m, 2H), 2.07-1.94 (m, 3H), 1.91-1.75 (m, 5H), 1.69-1.60 (m, 3H), 1.43 (s, 9H), 1.28-1.17 (m, 3H), 1.07-1.00 (m, 2H), 0.94 (d, J=6.6 Hz, 3H), 0.90 (d, J=6.6 Hz, 3H). 31P NMR (CD3OD, 300 MHz): δ 61.20, 60.48. LCMS m/z: [M+H]+=525.3.

reactant | N-Boc-L-valine | 7.15 mmol, 1.798 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | HOBT | 9.30 mmol, 1.257 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.51 mmol, 1.440 g | Cl.CN(CCCN=C=NCC)C
reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | 7.15 mmol, 2.589 g | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | Triethylamine | 14.3 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | [(R)-3-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester | 4.296 mmol, 2.254 g | C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CNC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)O | C27H45N2O6P
